US07253196B2
[2-(cycloheptylamino)-4-oxo-4,5-dihydro-1,3-thiazol-5-yl]acetonitrile
Synthesis was performed from (2S)-2-amino-3-cyanopropanoic acid and N-cycloheptylthiourea according to Method E and C.

reactant | (2S)-2-amino-3-cyanopropanoic acid | N[C@H](C(=O)O)CC#N | C4H6N2O2
reactant | N-cycloheptylthiourea | C1(CCCCCC1)NC(=S)N | C8H16N2S
product | [2-(cycloheptylamino)-4-oxo-4,5-dihydro-1,3-thiazol-5-yl]acetonitrile | C1(CCCCCC1)NC=1SC(C(N1)=O)CC#N | C12H17N3OS
